US07329662B2
2-(3-Methyl-4-trifluoromethyl-phenyl)-4-trifluoromethyl-imidazo[1,5-a]pyrimidine-8-carbonitrile
Reaction of 1-(3-methyl-4-trifluoromethyl-phenyl)-4,4,4-trifluoro-butane-1,3-dione (224 mg, 0.75 mmol), prepared from 3-methyl-4-trifluoromethyl-acetophenone (synthesis: see part acetophenone derivatives) according to general procedure A, and 4-amino-5-cyano-1H-imidazole (81 mg, 0.75 mmol) according to general procedure B yielded the title compound as a yellow solid (131 mg, 47%). MS (ISP) 371.1 [(M+H)+]; mp 217° C.

reactant | 1-(3-methyl-4-trifluoromethyl-phenyl)-4,4,4-trifluoro-butane-1,3-dione | 0.75 mmol, 224 mg | CC=1C=C(C=CC1C(F)(F)F)C(CC(C(F)(F)F)=O)=O | C12H8F6O2
reactant | 4-amino-5-cyano-1H-imidazole | 0.75 mmol, 81 mg | NC=1N=CNC1C#N | C4H4N4
product | 2-(3-Methyl-4-trifluoromethyl-phenyl)-4-trifluoromethyl-imidazo[1,5-a]pyrimidine-8-carbonitrile | 131 mg, 47% | CC=1C=C(C=CC1C(F)(F)F)C1=NC=2N(C(=C1)C(F)(F)F)C=NC2C#N | C16H8F6N4
